US04103009
2,4-diamino-6-(3-dimethylsulfamylphenyl)-s-triazine
5.7 g of benzoguanamine is heated in 12 g of chlorosulfonic acid at 130° to 140° C. for 4 hours. After cooling, the reaction mixture is added dropwise into a mixture of 40 ml of 40% aqueous dimethylamine and 50 ml of dioxane under agitation and ice cooling, and after one hour agitation, the mixture is evaporated to dryness under vacuum. Thereafter, water is added to the mixture and the separated crystals are filtered out and recrystallized from dioxane. Melting point: 250°-251° C.; yield: 8.8 g.

reactant | benzoguanamine | 5.7 g | C=1C=CC(=CC1)C=2N=C(N=C(N2)N)N | C9H9N5
reactant | dimethylamine | 40 ml | CNC | C2H7N
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | chlorosulfonic acid | 12 g | ClS(=O)(=O)O | ClHO3S
product | 2,4-diamino-6-(3-dimethylsulfamylphenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1)S(N(C)C)(=O)=O | C11H14N6O2S
